US07727985B2
A solution of 3(S)-(6-chloro-9H-β-carbolin-8-ylcarbamoyl)-morpholine-4-carboxylic acid tert-butyl ester (1.00 g, 2.32 mmol) in CH2Cl2 (6 ml) was stirred at RT. Trifluoroacetic acid (6 ml) was added and the solution was stirred at RT for 45 min, then concentrated to a residue. The residue was concentrated once more from CH2Cl2 to yield a yellow-brown solid which was dissolved in THF (13 ml) under argon. Gentle warming was sometimes needed to ensure complete dissolution. A solution of N-(tert-butoxycarbonyl)-D-prolinal (693 mg, 3.48 mmol) in THF (2 ml) was added, followed by sodium triacetoxyborohydride (738 mg, 3.48 mmol). The solution was stirred at RT for 30 min, then quenched via addition of 1N aqueous NaOH (30 ml). The mixture was poured into a separatory funnel containing EtOAc (100 ml), H2O (100 ml), and brine (100 ml). The mixture was shaken and the layers were separated. The aqueous layer was extracted with EtOAc (2×50 ml) and the combined organic layers were washed with brine. The organic layer was dried, filtered and concentrated to yield a light brown solid. Column chromatography (2%-4% MeOH/CH2Cl2) yielded 2(R)-[3(S)-(6-Chloro-9H-β-carbolin-8-ylcarbamoyl)-morpholin-4-ylmethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester as a white solid (915 mg).

reactant | 3(S)-(6-chloro-9H-β-carbolin-8-ylcarbamoyl)-morpholine-4-carboxylic acid tert-butyl ester | 2.32 mmol, 1.00 g | C(C)(C)(C)OC(=O)N1[C@@H](COCC1)C(NC=1C=C(C=C2C=3C=CN=CC3NC12)Cl)=O | C21H23ClN4O4
reactant | Trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-(tert-butoxycarbonyl)-D-prolinal | 3.48 mmol, 693 mg | C(C)(C)(C)OC(=O)N1[C@@H](C=O)CCC1 | C10H17NO3
reactant | sodium triacetoxyborohydride | 3.48 mmol, 738 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 6 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 13 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | 2(R)-[3(S)-(6-Chloro-9H-β-carbolin-8-ylcarbamoyl)-morpholin-4-ylmethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 915 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)CN1[C@@H](COCC1)C(NC=1C=C(C=C2C=3C=CN=CC3NC12)Cl)=O | C26H32ClN5O4
